US07897607B2
Ethyl 1-butyryl-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate
Diethyl [1-ethoxy-2-(6-mesitylpyridin-2-yl)-3-oxohexyl]malonate (0.045 g, 0.10 mmol) was dissolved in acetic acid (3 mL). The reaction was heated at 100° C. for 20 minutes. Acetic acid was stripped off via rotavap. Saturated sodium bicarbonate was added and the solution was extracted with ethyl acetate. The organics were dried, concentrated, and flash chromatographed (20% ethyl acetate/hexanes) to give 0.015 g (37% yield) of the title compound.

reactant | Diethyl [1-ethoxy-2-(6-mesitylpyridin-2-yl)-3-oxohexyl]malonate | 0.10 mmol, 0.045 g | C(C)OC(C(C(CCC)=O)C1=NC(=CC=C1)C1=C(C=C(C=C1C)C)C)C(C(=O)OCC)C(=O)OCC | C29H39NO6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | Ethyl 1-butyryl-6-mesityl-4-oxo-4H-quinolizine-3-carboxylate | 0.015 g, 37% yield | C(CCC)(=O)C=1C=C(C(N2C(=CC=CC12)C1=C(C=C(C=C1C)C)C)=O)C(=O)OCC | C25H27NO4
